US08614206B2
(R)—N-(1-(1-cyclopropylmethyl-4-nitro-1H-pyrazol-5-yl)azepan-4-yl)-2,2,2-trifluoroacetamide and 5-(tert-butoxycarbonylamino)-2-(2,6-difluorophenyl)thiazole-4-carboxylic acid were reacted to give (R)-tert-butyl 2-(2,6-difluorophenyl)-4-(1-cyclopropylmethyl-5-(4-(2,2,2-trifluoroacetamido)azepan-1-yl)-1H-pyrazol-4-ylcarbamoyl)thiazol-5-ylcarbamate as a cream solid (136 mg, 77%). 1H-NMR (400 MHz, CDCl3) δ 10.39 (s, 1H), 8.75 (s, 1H), 7.95 (s, 1H), 7.41-7.36 (m, 1H), 7.10-7.02 (m, 2H), 6.37 (d, J=8 Hz, 1H), 4.25-4.10 (m, 1H), 3.90-3.83 (m, 2H), 3.43-3.31 (m, 2H), 3.30-3.15 (m, 2H), 2.25-2.05 (m, 2H), 2.03-1.70 (m, 4H), 1.57 (s, 9H) 1.35-1.20 (m, 1H), 0.64-0.59 (m, 2H), 0.43-0.38 (m, 2H).

reactant | (R)—N-(1-(1-cyclopropylmethyl-4-nitro-1H-pyrazol-5-yl)azepan-4-yl)-2,2,2-trifluoroacetamide | C1(CC1)CN1N=CC(=C1N1CC[C@@H](CCC1)NC(C(F)(F)F)=O)[N+](=O)[O-] | C15H20F3N5O3
reactant | 5-(tert-butoxycarbonylamino)-2-(2,6-difluorophenyl)thiazole-4-carboxylic acid | C(C)(C)(C)OC(=O)NC1=C(N=C(S1)C1=C(C=CC=C1F)F)C(=O)O | C15H14F2N2O4S
product | (R)-tert-butyl 2-(2,6-difluorophenyl)-4-(1-cyclopropylmethyl-5-(4-(2,2,2-trifluoroacetamido)azepan-1-yl)-1H-pyrazol-4-ylcarbamoyl)thiazol-5-ylcarbamate | 136 mg, 77% | FC1=C(C(=CC=C1)F)C=1SC(=C(N1)C(NC=1C=NN(C1N1CC[C@@H](CCC1)NC(C(F)(F)F)=O)CC1CC1)=O)NC(OC(C)(C)C)=O | C30H34F5N7O4S
